US04147780
The procedure described in Example 36B was repeated using DL-1-benzhydrylamino-1-(2,4-dihydroxyphenyl)-methanephosphonous acid instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-1-(2,4-dihydroxyphenyl)-methanephosphonous acid.

reactant | 1-benzhydrylamino-1-(2,4-dihydroxyphenyl)-methanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(P(O)O)C1=C(C=C(C=C1)O)O | C20H20NO4P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-1-(2,4-dihydroxyphenyl)-methanephosphonous acid | NC(P(O)O)C1=C(C=C(C=C1)O)O | C7H10NO4P
